* ============================================================
* Task 5 - Automated PVT Characterization
* Corner      : ff
* VDD         : 1.98 V
* Temperature : -40 C
* Select      : 1
* Selected    : I1
* ============================================================

.include "/home/anusri/AI_Assisted_MixedSignalPhysicalDesign_Internship_GITHUB/task5/pvt_characterization/testbenches/AMUX2_3V_extracted.spice"

.param VDDVAL=1.980000
.param TEMPVAL=-40

VDD VDD 0 {VDDVAL}
VSS VSS 0 0

VSEL select 0 {VDDVAL}
VI0 I0 0 0
VI1 I1 0 PULSE(0 {VDDVAL} 1n 20p 20p 5n 10n)

CLOAD out 0 20f

.lib "/home/anusri/.ciel/ciel/sky130/versions/f6eeac7dad085ffcc829ccfd721f7b4ce39edcf7/sky130A/libs.tech/ngspice/sky130.lib.spice" ff
.temp {TEMPVAL}

XMUX I0 I1 select out VDD VSS AMUX2_3V_magic83_DRC0_select_fixed

.tran 1p 20n

.control
set noaskquit
run

* Output levels
meas tran voh MAX v(out) FROM=6n TO=10n
meas tran vol MIN v(out) FROM=1n TO=5n

* Propagation delay: 50% input to 50% output
meas tran tpd_rise TRIG v(i1) VAL=0.990000 RISE=1 TARG v(out) VAL=0.990000 RISE=1
meas tran tpd_fall TRIG v(i1) VAL=0.990000 FALL=1 TARG v(out) VAL=0.990000 FALL=1

* 10%-90% rise time
meas tran rise_time TRIG v(out) VAL=0.198000 RISE=1 TARG v(out) VAL=1.782000 RISE=1

* 90%-10% fall time
meas tran fall_time TRIG v(out) VAL=1.782000 FALL=1 TARG v(out) VAL=0.198000 FALL=1

* Save waveform
write "/home/anusri/AI_Assisted_MixedSignalPhysicalDesign_Internship_GITHUB/task5/pvt_characterization/results/ff_vdd1.98_temp-40_sel1.raw" all

quit
.endc

.end
